US08754085B2
Step 2: 7-(3-Phenyl-2-p-tolyl-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoic acid
Ethyl 7-(3-phenyl-2-p-tolyl-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoate (158 mg, 0.345 mmol) in THF (4 ml) and water (1 ml) at RT was treated with LiOH monohydrate (43.5 mg, 1.036 mmol) and stirred at RT for 16 hours. The organic solvent was removed in vacuo and the residue was diluted with water (20 ml). The pH was adjusted to pH4 with aqueous 10% citric acid solution. The mixture was extracted with DCM (×3) and the organic extracts were passed through a phase separating column and concentrated in vacuo. The resulting crude product was purified by chromatography on silica eluting with 0-40% EtOAc/iso-hexane followed by chiral separation using Supercritical Fluid Chromatography to afford the title compound;

reactant | Ethyl 7-(3-phenyl-2-p-tolyl-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoate | 0.345 mmol, 158 mg | C1(=CC=CC=C1)C1=C(N=C2C(=N1)N(CCC2)CCCCCCC(=O)OCC)C2=CC=C(C=C2)C | C29H35N3O2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 7-(3-Phenyl-2-p-tolyl-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoic acid | C1(=CC=CC=C1)C1=C(N=C2C(=N1)N(CCC2)CCCCCCC(=O)O)C2=CC=C(C=C2)C | C27H31N3O2
